US06172077B2
2-Benzyloxy-5-nitro-1-bromobenzene
A mixture of 2-bromo-4-nitrophenol (Description 6; 14 g, 68.6 mmol), benzyl bromide (14.1 g, 82.4 mmol) and potassium carbonate (47.3 g, 0.343 mol) in dimethylformamide (100 ml) was heated at 60° C. for 3 hours. The mixture was cooled to room temperature and poured into a mixture of ethyl acetate and water. The organic phase was washed with water (3 times) and saturated brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was recrystallized from methanol to give the title compound (19 g). H NMR (250 MHz, CDCl3) δ 8.48 (1H, d, J 2.8 Hz), 8.18 (1H, dd, J 9.08 Hz, 2.8 Hz), 7.46−7.3 (5H, m), 7.0 (1H, d, J 9.2 Hz), and 5.27 (2H, s).

reactant | 2-bromo-4-nitrophenol | 68.6 mmol, 14 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | benzyl bromide | 82.4 mmol, 14.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.343 mol, 47.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Benzyloxy-5-nitro-1-bromobenzene | 19 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C13H10BrNO3
